US04665188
1.3 g of ethyl 6-(1-imidazolylmethyl)-5,6,7,8-tetrahydro-2-naphthalenecarboxylate was mixed with 15 ml of a 5% solution of hydrogen chloride in ethanol, and the mixture was concentrated to dryness in vacuo. The residue was recrystallized from a mixture of isopropanol and diethyl ether to give 1.2 g of ethyl 6-(1-imidazolylmethyl)-5,6,7,8-tetrahydro-2-naphthalenecarboxylate hydrochloride as colorless crystals with m.p. 180°-182° C.

reactant | ethyl 6-(1-imidazolylmethyl)-5,6,7,8-tetrahydro-2-naphthalenecarboxylate | 1.3 g | N1C(=NC=C1)CC1CC=2C=CC(=CC2CC1)C(=O)OCC | C17H20N2O2
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | ethyl 6-(1-imidazolylmethyl)-5,6,7,8-tetrahydro-2-naphthalenecarboxylate hydrochloride | 1.2 g | Cl.N1C(=NC=C1)CC1CC=2C=CC(=CC2CC1)C(=O)OCC | InChI=1S/C17H20N2O2.ClH/c1-2-21-17(20)15-6-5-13-9-12(3-4-14(13)11-15)10-16-18-7-8-19-16;/h5-8,11-12H,2-4,9-10H2,1H3,(H,18,19);1H
